US07786115B2
N-allyl-2-bromo-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-methoxybenzamide (1.03 g), tri-o-tolylphosphine (283 mg), tetraethylammonium bromide (977 mg) and potassium carbonate (1.3 g) were suspended in DMF (36 ml) under argon. Pd(OAc)2 (104 mg) was added and the mixture was heated at 120° C. for 17 hours and then allowed to cool. The reaction mixture was diluted with ethyl acetate and washed with water (×5), brine, dried (magnesium sulfate) and concentrated. Purification by column chromatography on a silica column eluting using a gradient of 50% ethyl acetate/iso-hexane to 100% ethyl acetate/iso-hexane to yield N-cyclopropyl-3-(7-methoxy-4-methyl-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide as a pale yellow foam (265 mg); NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.69 (m, 2H), 2.11 (s, 3H), 2.27 (s, 3H), 2.86 (m, 1H), 3.89 (s, 3H), 7.10 (s, 1H), 7.46-7.51 (m, 2H), 7.71-7.76 (m, 3H), 7.87 (d, 1H), 8.46 (d, 1H); Mass Spectrum: M+H+ 363.

reactant | N-allyl-2-bromo-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-methoxybenzamide | 1.03 g | C(C=C)N(C(C1=C(C=CC(=C1)OC)Br)=O)C1=C(C=CC(=C1)C(=O)NC1CC1)C | C22H23BrN2O3
reactant | tri-o-tolylphosphine | 283 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetraethylammonium bromide | 977 mg | [Br-].C(C)[N+](CC)(CC)CC
solvent | DMF | 36 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OAc)2 | 104 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-cyclopropyl-3-(7-methoxy-4-methyl-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide | 265 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C(=C1)C)OC)=O)=O | C22H22N2O3
